Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
chlorhexidine
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
___ w/ DM, C diff, cholangiocarcinoma (s/p cisplatin/gemcitabine 
and cyberknife; now on surveillance), recurrent cholangitis 
(most recently with associated ESBL E coli bacteremia;  treated 
with ERCP ___ with clean out of his metal stents and 14d 
meropenem), who returns with fever.

Patient noted that he tolerated antibiotics well since last 
discharge and in light of his clinical improvement his 
outpatient ID doctor informed him that he can discontinue 
further dosing as he had completed his ___ days 
later after stopping antibiotics, patient developed fever to 
100.7, along with nausea, and 1 loose bowel movement. He noted 
that diarrhea was similar to quality of stool when he had CDiff, 
but denied any abdominal pain or vomiting. He noted that he has 
a chronic cough attributed to post nasal drip for which he uses 
fluticasone but noted no change in sputum quality. He denied 
dysuria. Noted that his prior PICC site was healed 
appropriately. Noted odd sensation in right maxillary sinus but 
no sinus or dental pain. Reported that he is up to date with 
dental checkups. 

In the ED, initial vitals: 100.2 75 144/74 16 100% RA. WBC 5.1, 
Hgb 10.6, plt 73, LFTs wnl, CHEM with HCO3 21, lactate 1.6, Flu 
negative, UA negative, CXR revealed patchy left lung base 
opacities are more conspicuous than on prior exams and could 
reflect developing infection/aspiration in the appropriate 
clinical setting. He was given vanc/meropenem/azithro and 
admitted to medicine for further workup of his fever.

 
Past Medical History:
CHOLANGIOCARCINOMA/BILIARY HISTORY:
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the summer, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung
nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated
this ductal dilation and a mass at the bifurcation of the right
anterior and left intrahepatic ducts worrisome for type IV
___ cholangiocarcinoma.  Cytology was suspicious 
for
carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 

- ___: start of cisplatin/gemcitabine cycle ___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and
cdiff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis. C4D15 held.
- ___ completed CK. radiation and resume C5D1 Gem/Cis. Day
15 held due to low counts and post-hospitalization. 
- ___: admitted for fever, cultures negative. Stents not
entirely patent on CT but fevers resolved, ? viral. 
- ___: start of C6 with dose reduced gemcitabine to 800mg/m2
- ___: start of C7 with dose reduced gemcitabine to 
750mg/m2.
Also received on ___.
- ___: received last dose, C8D1
- ___ and ___: hospitalized for biliary sepsis s/p perc
chole tube
- ___: hospitalized with biliary drain obstruction,
hemobilia s/p exchange of percutaneous biliary drain tubing,
disimpaction of percutaneous biliary drain by, interventional
radiology, ERCP, hepatic capsular artery embolization
- ___ admit for ecoli bacteremia with stone/sludge
removal and on IV meropenem X 10 days; ___ admit with 
fever
and PTBD replaced
-  admitted from ___ to ___, with
replacement of his percutaneous biliary drain on ___ 
due
to fever.  None of his blood cultures returned positive during
that admission.
- visited ED with fevers, chills abdominal pain on ___ and
___. 
- admitted ___ - ___ with cholangitis, hospitalization
complicated by hemobilia during ERCP interrogation of L CBD.
Treated with 7d meropenem. Blood cultures negative throughout
hospitalization. MRCP obtained ___ showed no new soft tissue
masses.
- admitted ___ - ___ with cholangitis, ERCP deferred
given prior hemobilia. In the absence of an obvious 
target for decompression, ___ was not consulted for consideration 

of biliary drain replacement. Blood and urine cultures were
negative. After discussion with the infectious disease team, the
decision was made to treat for acute cholangitis with a 10d
course of meropenem 500mg q6h (___), followed by 
initiation
of suppressive doxycycline 100mg DAILY (for VRE) and bactrim DS 
1
tab daily.
- admitted ___ with cholangitis and associated ESBL E coli 
bacteremia;  treated with ERCP ___ with clean out of his metal 
stents and 14d meropenem.

PAST MEDICAL HISTORY:
GERD
___
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
C.diff x3
Diabetes Mellitus diagnosed ___
 
Social History:
___
Family History:
Two grandparents with unknown cancers, otherwise no cancer 
history.
 
Physical Exam:
ADMISSION EXAM:  
Vitals: ___ ___ Temp: 98.5 PO BP: 115/71 HR: 79 RR: 18 O2
sat: 96% O2 delivery: RA  
GENERAL: laying in bed, appears fatigued, NAD, pleasant
EYES: PERRLA, anicteric
HEENT: OP clear, poor dentition, has no maxillary sinus
tenderness
NECK: supple
LUNGS:  CTA b/l, no wheezes/rales/rhonchi, normal RR, no
increased WOB
CV: RRR no m/r/g, normal distal perfusion without edema
ABD: soft, NT, ND, normoactive BS, no rebound or guarding
GENITOURINARY: no foley
EXT: PICC site in RUE is well healed without e/o infection, no
deformity
SKIN: warm, dry, no rash
NEURO: AOx3, fluent speech
ACCESS: PIV

DISCHARGE EXAM
VITALS: last 24-hour vitals were reviewed.
GEN: NAD. looks a bit acutely ill - mildly diaphoretic and
although AOx3 with good fund of memory, he seems not quite as
mentally sharp as his baseline. 
HEENT: EOMI, sclerae anicteric, MMM, OP clear 
NECK: No LAD, no JVD
CARDIAC: RRR, no M/R/G
PULM: normal effort, no accessory muscle use. Rales at L base > 
R. 
GI: soft, NT, ND, NABS
MSK: No visible joint effusions or deformities.
DERM: No visible rash. No jaundice.
NEURO: AAOx3. No facial droop, moving all extremities.
PSYCH: Full range of affect
EXTREMITIES: WWP, no edema
 
Pertinent Results:
ADMISSION LABS
___ 11:30PM BLOOD WBC-5.1 RBC-4.19* Hgb-10.6* Hct-33.6* 
MCV-80* MCH-25.3* MCHC-31.5* RDW-16.8* RDWSD-48.8* Plt Ct-73*
___ 11:30PM BLOOD Glucose-141* UreaN-17 Creat-0.7 Na-138 
K-4.3 Cl-102 HCO3-21* AnGap-15
___ 11:30PM BLOOD ALT-27 AST-38 AlkPhos-128 TotBili-0.5
___ 11:42PM BLOOD Lactate-1.6

DISCHARGE LABS
___ 05:10AM BLOOD WBC-2.0* RBC-3.78* Hgb-9.5* Hct-30.8* 
MCV-82 MCH-25.1* MCHC-30.8* RDW-16.5* RDWSD-49.1* Plt Ct-66*
___ 05:10AM BLOOD Neuts-52.5 ___ Monos-9.6 Eos-9.1* 
Baso-0.5 AbsNeut-1.04* AbsLymp-0.56* AbsMono-0.19* AbsEos-0.18 
AbsBaso-0.01
___ 05:10AM BLOOD Glucose-151* UreaN-12 Creat-0.6 Na-142 
K-4.1 Cl-105 HCO3-25 AnGap-12
___ 05:10AM BLOOD ALT-34 AST-31 AlkPhos-138* TotBili-0.___ w/ DM, C diff, cholangiocarcinoma (s/p cisplatin/gemcitabine 
and cyberknife; now on surveillance), recurrent cholangitis 
(most recently with associated ESBL E coli bacteremia;  treated 
with ERCP ___ with clean out of his metal stents and 14d 
meropenem), who was readmitted with fever, which may be due to 
cholangitis. 

#CHOLANGITIS OF R INTRAHEPATIC BILE DUCTS
#FEVER
   The patient presented with fever, which may be due to 
cholangitis. CXR showed an equivocal LLL pneumonia, so a 
bacterial or viral PNA is an alternate explanation. He has been 
clinically stable and afebrile on meropenem (his ESBL E coli 
from the last admission is sensitive only to carbapenems and 
Zosyn). ID noted that he is increasingly pancytopenic, which has 
happened previously on meropenem, and switched him to ertapenem, 
which he has tolerated before. 
   MRCP on this admission showed persistent cholangitis in the 
intrahepatic bile ducts of the R lobe of the liver. ERCP was 
performed on ___ with cleanout of the metal stents, but they 
were unable to access the R intrahepatic system, suggesting the 
obstruction likely persists. Nonetheless, they feel that 
percutaneous biliary drain would not be indicated and suggest 
management with antibiotics alone. 
   Plan is for a two week total course of ertapenem. When this 
ends, he will start delafloxacin BID for suppressive therapy. He 
will also follow regularly with the ERCP team in clinic.
 
#Cholangiocarcinoma 
Followed by Dr. ___ and is s/p cisplatin/gemcitabine x 7.5 
cycles and cyberknife, now on surveillance. 
A biopsy was taken from two polyps from D2 segment of the 
duodenum during his ERCP, which is pending at time of discharge. 


#Pancytopenia
Roughly stable as compared to recent baseline, appears due to be 
chronic myelosuppression with acute worsening possibly 
attributable to meropenem. He was improving after meropenem was 
switched, but will need his counts followed. 

HCP: his wife, ___ (___)
#Code: full

OUTSTANDING ISSUES:
-Plan is for a two week total course of ertapenem via home 
infusion.
-Watch for improvement in pancytopenia off meropenem.
-Given one month supply of delafloxacin, which ID will have to 
refill if they decide to continue this. The medication is 
covered by insurance with a $30 copay. 
-A biopsy was taken from two polyps from D2 segment of the 
duodenum during his ERCP, which is pending at time of discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Clotrimazole Cream 1 Appl TP BID:PRN rash 
3. Finasteride 5 mg PO QPM 
4. Fluticasone Propionate NASAL 2 SPRY NU BID 
5. GuaiFENesin ER 600 mg PO QHS 
6. Loratadine 10 mg PO QHS 
7. Multivitamins 1 TAB PO DAILY 
8. Pantoprazole 40 mg PO QPM 
9. Psyllium Powder 1 PKT PO BID 
10. Tamsulosin 0.4 mg PO QHS 
11. Biotene Dry Mouth Oral Rinse (saliva substitute combo no.9)  
  mucous membrane QHS 
12. Vitamin D 400 UNIT PO DAILY 
13. ValACYclovir ___ mg PO BID 
14. Dronabinol 5 mg PO QHS 
15. glucosamine-chondroitin uncertain uncertain oral DAILY 
16. TraZODone 25 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  delafloxacin 450 mg oral BID 
Start taking in 12 days (after IV antibiotic treatment ends)  
2.  Ertapenem Sodium 1 g IV DAILY daily 
RX *ertapenem [Invanz] 1 gram 1 g IV daily Disp #*12 Vial 
Refills:*0 
3.  Atenolol 50 mg PO DAILY  
4.  Biotene Dry Mouth Oral Rinse (saliva substitute combo no.9)  
  mucous membrane QHS  
5.  Clotrimazole Cream 1 Appl TP BID:PRN rash  
6.  Dronabinol 5 mg PO QHS  
7.  Finasteride 5 mg PO QPM  
8.  Fluticasone Propionate NASAL 2 SPRY NU BID  
9.  glucosamine-chondroitin uncertain uncertain oral DAILY  
10.  GuaiFENesin ER 600 mg PO QHS  
11.  Loratadine 10 mg PO QHS  
12.  Multivitamins 1 TAB PO DAILY  
13.  Pantoprazole 40 mg PO QPM  
14.  Psyllium Powder 1 PKT PO BID  
15.  Tamsulosin 0.4 mg PO QHS  
16.  TraZODone 25 mg PO QHS:PRN insomnia  
17.  ValACYclovir ___ mg PO BID  
18.  Vitamin D 400 UNIT PO DAILY  
19.Outpatient Lab Work
CBC with diff, BUN, Cr, AST, ALT, ALP, Total Bili
Draw on ___, then every 7 days for 2 more weeks. 
ICD10: K83.0: Cholangitis
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cholangitis
Fever

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital with a fever. We are not totally sure 
this wasn't just caused by a respiratory virus, but your liver 
MRI showed residual inflammation around the branch bile ducts 
inside the lever, so leftover cholangitis is a concern.

We are treating you with 12 more days of IV antibiotics to try 
and clear this (ERTAPENEM once daily). You will need labs 
monitored while you are on antibiotics. The visiting nurse 
helping with antibiotics should be able to draw these off your 
PICC, but if you have any issues I have given you a paper script 
for labs that you can take to ___, or any outpatient lab 
provider (i.e. your local ___ Labs). 
After you are done with the ertapenem, please take DELAFLOXACIN 
twice daily as a suppressive treatment. 

It was a pleasure caring for you! If you have any logistical 
issues with your care transition, feel free to call or text your 
discharging doctor's ___ cell ___.
 
Followup Instructions:
___